US08426437B2
This compound is prepared according to synthesis 25, from 326 mg (1 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 236 mg (1 mmol) of 4-amino-1-tert-butoxycarbonyl piperidine hydrochloride and 700 μL (5 mmol) of triethylamine. After purification by chromatography on silica (eluent chloroform/methanol/ammonia 65/25/4) then trituration in methanol, 16 mg (4%) of 4-oxo-8-(piperidin-4-ylsulfamoyl)-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1 mmol, 326 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 4-amino-1-tert-butoxycarbonyl piperidine hydrochloride | 1 mmol, 236 mg | Cl.NC1CCN(CC1)C(=O)OC(C)(C)C
reactant | triethylamine | 5 mmol, 700 μL | C(C)N(CC)CC | C6H15N
product | 4-oxo-8-(piperidin-4-ylsulfamoyl)-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 16 mg, 4% | O=C1NC=2C=CC(=CC2C2=C1NC=C2)S(NC2CCNCC2)(=O)=O.C(C)C(=O)[O-] | InChI=1S/C16H18N4O3S.C3H6O2/c21-16-15-12(5-8-18-15)13-9-11(1-2-14(13)19-16)24(22,23)20-10-3-6-17-7-4-10;1-2-3(4)5/h1-2,5,8-10,17-18,20H,3-4,6-7H2,(H,19,21);2H2,1H3,(H,4,5)/p-1
